US05214043
Example 9 1-[3,5-Dichloro-4-(2-pyridyl)-phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione
3 g (8.5 mmol) of 1-[3,5-dichloro-4-(2-pyridyl)phenyl]-3,3-dimethyl-1,2,4-triazolidin-5-one are dissolved in 50 ml of dioxane, and 0.78 g (8.5 mmol) of glyoxylic acid monohydrate and 0.1 ml of concentrated H2SO4 are added. The mixture is initially stirred at room temperature for 2 h and then a further 0.8 g of glyoxylic acid is added. After the reaction mixture has been stirred under reflux for 5 h it is poured onto water and extracted 3 × with ethyl acetate. The solvent is stripped off in vacuo, and the residue is chromatographed on SiO2 with dichloromethane/methanol (95:5). This results in 1.2 g (40% of theory) of the corresponding azauracil.

reactant | 1-[3,5-dichloro-4-(2-pyridyl)phenyl]-3,3-dimethyl-1,2,4-triazolidin-5-one | 8.5 mmol, 3 g | ClC=1C=C(C=C(C1C1=NC=CC=C1)Cl)N1NC(NC1=O)(C)C | C15H14Cl2N4O
reactant | glyoxylic acid monohydrate | 8.5 mmol, 0.78 g | O.C(C=O)(=O)O
reactant | H2SO4 | 0.1 ml | OS(=O)(=O)O | H2O4S
reactant | glyoxylic acid | 0.8 g | C(C=O)(=O)O | C2H2O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-[3,5-Dichloro-4-(2-pyridyl)-phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | ClC=1C=C(C=C(C1C1=NC=CC=C1)Cl)N1NC(NC(C1)=O)=O | C14H10Cl2N4O2
